US08648038B2
To a solution of 200 mg (0.73 mmol) of dimethyl 2-[1-(4-aminophenyl)but-2-ynyl]-malonate, 251 mg (2.18 mmol) of N-ethylmorpholine, 122 mg (0.8 mmol) of HOBt hydrate and 124 mg (0.80 mmol) of EDAC in 5 ml of DMF was added a solution of 213 mg (0.73 mmol) of 2-(4-bromo-2-chlorophenoxy)-2-methylpropionic acid in 3 ml of DMF. After 18 h at room temperature, another 1.1 equivalents each of N-ethylmorpholine and HOBt hydrate were added. After 72 h, the reaction mixture was concentrated completely and separated by means of preparative HPLC (Merck Hibar Purospher Star RP-18e 10 μm 25×250 mm; A: H2O+0.05% TFA; B: ACN+0.05% TFA; flow rate: 50 ml/min; in 10 minutes 10% B→80% B; in 5 minutes 80% B→90% B). The product fractions were freeze-dried to obtain 180 mg (45%) of dimethyl 2-(1-{-[2-(4-bromo-2-chlorophenoxy)-2-methylpropionylamino]phenyl}but-2-ynyl)malonate.

reactant | dimethyl 2-[1-(4-aminophenyl)but-2-ynyl]-malonate | 0.73 mmol, 200 mg | NC1=CC=C(C=C1)C(C#CC)C(C(=O)OC)C(=O)OC | C15H17NO4
reactant | N-ethylmorpholine | 2.18 mmol, 251 mg | C(C)N1CCOCC1 | C6H13NO
reactant | HOBt hydrate | 0.8 mmol, 122 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDAC | 0.80 mmol, 124 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-(4-bromo-2-chlorophenoxy)-2-methylpropionic acid | 0.73 mmol, 213 mg | BrC1=CC(=C(OC(C(=O)O)(C)C)C=C1)Cl | C10H10BrClO3
reactant | N-ethylmorpholine | 1.1 equivalents | C(C)N1CCOCC1 | C6H13NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | dimethyl 2-(1-{-[2-(4-bromo-2-chlorophenoxy)-2-methylpropionylamino]phenyl}but-2-ynyl)malonate | 180 mg, 45% | BrC1=CC(=C(OC(C(=O)NC2=C(C=CC=C2)C(C#CC)C(C(=O)OC)C(=O)OC)(C)C)C=C1)Cl | C25H25BrClNO6
